US06432944B1
2-[2-[2-(Hydroxymethyl)phenyl]-1-oxoethyl]-2-methylhydrazinecarboxylic acid, 1,1-dimethylethyl ester (XVII)
N-(t-Butoxycarbonyl)-N′-methylhydrazine (100 mmol) (Lenman, et al., J. Chem. Soc. Perkin Trans., 1997, 16, 2297-2312; Dutta, et al., J. Chem. Soc. Perkin Trans., 1986, 1655-1664) was added to 3-isochromanone (7.4 g, 50 mmol) (Cheng, et al., J. Heterocyclic Chem., 1995, 32, 73) in a sealed tube followed by 0.2 mL of acetic acid and heated for 12 h at 100° C. The reaction mixture was diluted with EtOAc (100 mL), washed with water (50 mL),1 M HCl (50 mL), brine (50 mL) and dried (Na2SO4). The desired alcohol 2-[2-[2-(Hydroxymethyl)phenyl]-1-oxoethyl]-2-methylhydrazinecarboxylic acid, 1,1-dimethylethyl ester was purified by flash chromatography (silica) using 50% EtOAc in hexane as eluent. MS (ESI) 295 (M+H).

reactant | N-(t-Butoxycarbonyl)-N′-methylhydrazine | 100 mmol | C(C)(C)(C)OC(=O)NNC | C6H14N2O2
reactant | 3-isochromanone | 50 mmol, 7.4 g | C1OC(CC2=CC=CC=C12)=O | C9H8O2
reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-[2-[2-(Hydroxymethyl)phenyl]-1-oxoethyl]-2-methylhydrazinecarboxylic acid, 1,1-dimethylethyl ester | OCC1=C(C=CC=C1)CC(=O)N(NC(=O)OC(C)(C)C)C | C15H22N2O4
